*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* Description :4532M(1812)/U2J(-55to125[deg])/2.20e-02[uF]/630[V]
* Murata P/N :GRM43D7U2J223JW31
* Property : C = 2.20e-02[uF]
* Data Generated on Jan 30, 2024
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 1000[kHz]-3[GHz]
*   Temperature = 25 degC
*   DC Bias Voltage = 0V
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT GRM43D7U2J223JW31 Port1 Port2
C01 Port1 N01 2.12e-08
R01 Port1 N01 4.55e+09
L02 N01 N02 4.68e-11
R03 N02 N03 3.70e-03
L04 N03 N04 1.92e-10
R04 N03 N04 2.97e-01
L05 N04 N05 2.57e-11
R05 N04 N05 1.53e-03
C06 N05 N06 3.54e-08
L06 N05 N06 1.46e-10
R06 N05 N06 8.17e-01
C07 N06 N07 2.38e-08
L07 N06 N07 8.20e-11
R07 N06 N07 5.59e-01
C08 N07 N08 3.98e-08
L08 N07 N08 2.37e-11
R08 N07 N08 2.18e-01
C09 N08 N09 2.66e-08
L09 N08 N09 2.16e-11
R09 N08 N09 1.92e-01
C10 N09 Port2 2.41e-12
L10 N09 Port2 3.34e-10
R10 N09 Port2 2.56e+02
.ENDS GRM43D7U2J223JW31
