*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* Description :4532M(1812)/U2J(-55to125[deg])/2.70e-03[uF]/1000[V]
* Murata P/N :GRM43Q7U3A272JW31
* Property : C = 2.70e-03[uF]
* Data Generated on Jan 30, 2024
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 1000[kHz]-3[GHz]
*   Temperature = 25 degC
*   DC Bias Voltage = 0V
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT GRM43Q7U3A272JW31 Port1 Port2
C01 Port1 N01 2.64e-09
R01 Port1 N01 1.00e+10
L02 N01 N02 1.48e-11
R03 N02 N03 4.26e-03
L04 N03 N04 1.44e-10
R04 N03 N04 9.25e-01
L05 N04 N05 6.51e-11
R05 N04 N05 9.31e-03
C06 N05 N06 3.82e-09
L06 N05 N06 1.07e-10
R06 N05 N06 1.73e+00
C07 N06 N07 2.65e-09
L07 N06 N07 5.49e-11
R07 N06 N07 1.27e+00
C08 N07 N08 7.86e-09
L08 N07 N08 8.19e-12
R08 N07 N08 2.97e-01
C09 N08 N09 3.88e-09
L09 N08 N09 9.77e-12
R09 N08 N09 2.94e-01
C10 N09 Port2 2.15e-12
L10 N09 Port2 4.28e-10
R10 N09 Port2 3.52e+02
.ENDS GRM43Q7U3A272JW31
