*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* Description :4532M(1812)/U2J(-55to125[deg])/1.20e-02[uF]/630[V]
* Murata P/N :GRM43Q7U2J123JW31
* Property : C = 1.20e-02[uF]
* Data Generated on Jan 30, 2024
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 1000[kHz]-3[GHz]
*   Temperature = 25 degC
*   DC Bias Voltage = 0V
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT GRM43Q7U2J123JW31 Port1 Port2
C01 Port1 N01 1.20e-08
R01 Port1 N01 8.33e+09
L02 N01 N02 1.55e-11
R03 N02 N03 5.26e-03
L04 N03 N04 7.18e-11
R04 N03 N04 1.25e+00
L05 N04 N05 1.27e-10
R05 N04 N05 2.39e-01
L06 N05 N06 2.69e-11
R06 N05 N06 2.11e-03
C07 N06 N07 1.90e-08
L07 N06 N07 1.00e-10
R07 N06 N07 6.96e-01
C08 N07 N08 1.51e-08
L08 N07 N08 4.62e-11
R08 N07 N08 5.44e-01
C09 N08 N09 4.86e-08
L09 N08 N09 6.57e-12
R09 N08 N09 1.05e-01
C10 N09 N10 1.86e-08
L10 N09 N10 1.04e-11
R10 N09 N10 1.30e-01
C11 N10 Port2 2.16e-12
L11 N10 Port2 3.81e-10
R11 N10 Port2 4.21e+02
.ENDS GRM43Q7U2J123JW31
